data/rdb19/train.csv
rxn,smiles,ea
4468,[C:13]([C:14]([C:15]([H:16])[H:17])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[H:17])[c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([H:10])[H:11])([C:4](=[O:5])[O:6][H:12])[H:27])([H:7])([H:8])[H:9],33.60139017255278
5117,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([c:30]1[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]1[H:44])[H:39])([H:36])([H:37])[H:38]>>[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([H:16])[H:39])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26](=[C:27]([H:28])[H:29])[c:30]1[c:31]([H:40])[c:32]([H:41])[c:33]([H:42])[c:34]([H:43])[c:35]1[H:44])([H:36])([H:37])[H:38].[c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24],89.68122130871052
3116,[C:16]([C:17]([C:18]([H:19])[N:20]([C:21](=[O:22])[H:29])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:18]([C:17]([C:16]([H:23])([H:24])[H:25])([H:26])[H:27])([H:19])[N:20]([C:21](=[O:22])[H:29])[H:28])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6](=[C:7]([H:14])[H:15])[H:13],36.95647600723896
3416,[C:17]([C:18](=[O:19])[O:20][C:21](=[C:22]([H:27])[H:28])[H:26])([H:23])([H:24])[H:25].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[C:21]([O:20][C:18]([C:17]([H:23])([H:24])[H:25])=[O:19])([C:22]([H:27])[H:28])[H:26])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],18.16328694828553
4991,[C:11]([O:12][C:13]([C:14]([H:22])([H:23])[H:24])([C:15]([H:16])[H:17])[H:21])([H:18])([H:19])[H:20].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([O:2][C:3]=[C:4]([H:9])[H:10])([H:5])([H:6])[H:7].[H:8][C:15]([C:13]([O:12][C:11]([H:18])([H:19])[H:20])([C:14]([H:22])([H:23])[H:24])[H:21])([H:16])[H:17],24.943123395787552
4869,[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])=[C:5]([H:6])[H:7])([H:8])([H:9])[H:10].[H:11][O:17][C:16]([C:15]([H:21])([H:22])[H:23])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24],42.6012282007141
642,[C:19]([O:20][O:21])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:13])[O:21][O:20][C:19]([H:22])([H:23])[H:24])([H:11])[H:12])([H:8])([H:9])[H:10].[C:5](=[O:6])[N:7]([H:17])[H:18],64.78584278025664
5003,[C:11]([C:12]([C:13]([H:14])[O:15][C:16]([H:22])([H:23])[H:24])([H:20])[H:21])([H:17])([H:18])[H:19].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:1]([O:2][C:3]([C:4]([H:9])[H:10])([H:8])[C:13]([C:12]([C:11]([H:17])([H:18])[H:19])([H:20])[H:21])([H:14])[O:15][C:16]([H:22])([H:23])[H:24])([H:5])([H:6])[H:7],19.44659337872872
1813,[C:15]([O:16][C:17](=[C:18]([H:23])[H:24])[H:22])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:15]([O:16][C:17]=[C:18]([H:23])[H:24])([H:19])([H:20])[H:21].[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[H:22])([H:11])[H:12])([H:8])([H:9])[H:10],29.09431133128237
3233,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([H:24])[c:25]1[c:26]([H:36])[c:27]([H:37])[c:28]([H:38])[c:29]([H:39])[c:30]1[H:40])([H:34])[H:35])([H:31])([H:32])[H:33]>>[C:1]([H:7])([H:8])([H:9])[C:23]([C:22]([C:21]([H:31])([H:32])[H:33])([H:34])[H:35])([H:24])[c:25]1[c:26]([H:36])[c:27]([H:37])[c:28]([H:38])[c:29]([H:39])[c:30]1[H:40].[C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11],63.911715319613
488,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7](=[C:8]([c:9]1[c:10]([H:18])[c:11]([H:19])[c:12]([H:20])[c:13]([H:21])[c:14]1[H:22])[H:17])([H:15])[H:16]>>[C:1]([O:2][O:3][C:12]1([H:20])[C:11]([H:19])[C:10]([H:18])=[C:9]([C:8](=[C:7]([H:15])[H:16])[H:17])[C:14]([H:22])=[C:13]1[H:21])([H:4])([H:5])[H:6],28.88083960220684
